US07309710B2
Oxalyl chloride (8.7 ml) was added to a mixture of 4,6-dimethylnicotinic acid (15.1 g) and dichloromethane (150 ml) under ice cooling, followed by stirring at 15 to 20° C. for one hour. A mixture of 4-[3,5-bis(trifluoromethyl)-1H-pyrazol-1-yl]aniline (23.59 g) and dichloromethane (300 ml) was added to the resulting reaction solution, followed by stirring at room temperature for 18 hours. An aqueous 20% potassium carbonate solution (about 200 ml) was added to the reaction solution, from which the organic layer was separated. Subsequently, the aqueous layer was extracted with dichloromethane (about 50 ml). The organic layer and the extract solution were combined together and subsequently concentrated under reduced pressure. The resulting residue was recrystallized from a mixed solvent (270 ml) of ethanol and water (2:1, respectively), to obtain 4,6-dimethyl-4′-[3,5-bis(trifluoromethyl)-1H-pyrazol-1-yl]nicotinanilide (26.70 g) as bluish white solid.

reactant | Oxalyl chloride | 8.7 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 4,6-dimethylnicotinic acid | 15.1 g | CC1=CC(=NC=C1C(=O)O)C | C8H9NO2
reactant | 4-[3,5-bis(trifluoromethyl)-1H-pyrazol-1-yl]aniline | 23.59 g | FC(C1=NN(C(=C1)C(F)(F)F)C1=CC=C(N)C=C1)(F)F | C11H7F6N3
reactant | potassium carbonate | about 200 ml | C([O-])([O-])=O.[K+].[K+]
solvent | dichloromethane | 300 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 150 ml | ClCCl | CH2Cl2
product | 4,6-dimethyl-4′-[3,5-bis(trifluoromethyl)-1H-pyrazol-1-yl]nicotinanilide | 26.70 g | CC1=CC(=NC=C1C(=O)NC1=CC=C(C=C1)N1N=C(C=C1C(F)(F)F)C(F)(F)F)C | C19H14F6N4O
